US07645789B2
To a deoxygenated solution of methyl 4-(2-butyramido-5-nitrophenyl)-2,2-dimethylbut-3-ynoate (1.8 g, 5.4 mmol) in acetonitrile (30 mL) was added Pd(CH3CN)2Cl2 (0.42 g, 1.6=mmol) under N2. The mixture was heated at reflux for 24 h. After cooling the mixture to ambient temperature, the solid was filtered off and washed with EtOAc (50 mL×3). The filtrate was evaporated under reduced pressure to give a residue, which was purified by column chromatography on silica gel (petroleum ether/ethyl acetate=30/1) to give methyl 2-methyl-2-(5-nitro-1H-indol-2-yl)propanoate (320 mg, 23%). 1H NMR (400 MHz, CDCl3) δ 9.05 (brs, 1H), 8.52 (d, J=2.0 Hz, 1H), 8.09 (dd, J=2.0, 8.8 Hz, 1H), 7.37 (d, J=8.8 Hz, 1H), 6.54 (d, J=1.6 Hz, 1H), 3.78 (d, J=9.6 Hz, 3H), 1.70 (s, 6H).

reactant | methyl 4-(2-butyramido-5-nitrophenyl)-2,2-dimethylbut-3-ynoate | 5.4 mmol, 1.8 g | C(CCC)(=O)NC1=C(C=C(C=C1)[N+](=O)[O-])C#CC(C(=O)OC)(C)C | C17H20N2O5
solvent | acetonitrile | 30 mL | C(C)#N | C2H3N
product | methyl 2-methyl-2-(5-nitro-1H-indol-2-yl)propanoate | 320 mg, 23% | CC(C(=O)OC)(C)C=1NC2=CC=C(C=C2C1)[N+](=O)[O-] | C13H14N2O4
